US05641778
A 4N hydrochloric acid solution in dioxane (2 ml) is added at 0° C. to (2S,4S,5S,7S)-N-[4-(tert-butoxycarbonyl)amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl]-2-(3-methoxypropoxy)-benzamide (50 mg). The reaction mixture is stirred at 0° C. for 2 hours (TLC monitoring) and then the solvent is immediately concentrated under a high vacuum with vigorous stirring until frozen and is subsequently removed by lyophilisation. After drying under a high vacuum, (2S,4S,5S,7S)-N-(4-amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl)-2-(3-methoxypropoxy)-benzamide hydrochloride is obtained in the form of a foamy solid: Rf (W)=0.31. HPLC Rt =12.8 min. MS(FAB) m/e 522 (M+ +1).

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | (2S,4S,5S,7S)-N-[4-(tert-butoxycarbonyl)amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl]-2-(3-methoxypropoxy)-benzamide | 50 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCCC)=O)O | C34H59N3O7
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | (2S,4S,5S,7S)-N-(4-amino-7-butylcarbamoyl-5-hydroxy-2-isopropyl-8-methyl-nonyl)-2-(3-methoxypropoxy)-benzamide hydrochloride | Cl.N[C@@H](C[C@H](CNC(C1=C(C=CC=C1)OCCCOC)=O)C(C)C)[C@H](C[C@@H](C(C)C)C(NCCCC)=O)O | InChI=1S/C29H51N3O5.ClH/c1-7-8-14-31-29(35)24(21(4)5)18-26(33)25(30)17-22(20(2)3)19-32-28(34)23-12-9-10-13-27(23)37-16-11-15-36-6;/h9-10,12-13,20-22,24-26,33H,7-8,11,14-19,30H2,1-6H3,(H,31,35)(H,32,34);1H/t22-,24+,25+,26+;/m1./s1
